US08957203B2
A round-bottom flask equipped with a stir bar was charged with a solution of N-(tert-butyl)-1-formylcyclopropane-1-sulfonamide (8.89 g, 43.3 mmol) in MeOH (110 mL). The solution was cooled to 0° C. and to the solution was added portionwise sodium borohydride (1.64 g, 43.3 mmol). The solution was stirred for 1 h. To the solution was added brine and the mixture was stirred for 15 min. The mixture was concentrated in vacuo to remove MeOH and the aqueous solution was then transferred to separatory funnel and was twice extracted with EtOAc. The combined organics were washed with sat. aq. NaCl; dried over MgSO4; filtered; and then concentrated in vacuo to afford N-(tert-butyl)-1-(hydroxymethyl)cyclopropane-1-sulfonamide as a colorless, crystalline solid (8.66 g, 96%). 1H NMR (400 MHz, CDCl3) δ 4.35 (br. s., 1H), 3.86 (d, J=6.0 Hz, 2H), 2.77 (t, J=6.0 Hz, 1H), 1.50-1.45 (m, 2H), 1.39 (s, 9H), 1.06-1.01 (m, 2H).

reactant | N-(tert-butyl)-1-formylcyclopropane-1-sulfonamide | 43.3 mmol, 8.89 g | C(C)(C)(C)NS(=O)(=O)C1(CC1)C=O | C8H15NO3S
reactant | sodium borohydride | 43.3 mmol, 1.64 g | [BH4-].[Na+]
solvent | MeOH | 110 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | N-(tert-butyl)-1-(hydroxymethyl)cyclopropane-1-sulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)CO | C8H17NO3S
